Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
"I work at ___." 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ and Dr. ___ 
consultation note dated ___. 

Briefly this is a ___ year old single Caucasian woman, previously 
diagnosed with depression, GAD, OCD symptoms since childhood, no 
prior psychiatric hospitalizations or suicide attempts who 
presented to ___ after being brought in by her father s/p 
suicide attempt via multi-drug overdose in the setting of 
psychosocial stressors. 

Upon initial interview, patient reported a longstanding history 
of depression and anxiety with chronic intermittent suicidal 
ideation. Reported her mood had worsened in the past couple of 
months in the setting of conflict at work, resulting in her 
being investigated by her supervisors, with concern that she 
would not being promoted. In addition, patient reported feeling 
abandoned and disappointed after a man she had been dating did 
not want to see her after she revealed information about her 
father. In this setting, reported depressed mood, decreased 
appetite, poor concentration and decreased sleep (about ___ 
hours per night). She also reported increased anxiety. On night 
prior to presentation, patient reported having 3 glasses of wine 
and following an argument with her romantic interest, she began 
having thoughts of jumping out of her apartment window. She 
stated she opened the window and sat on a ledge but "couldn't go 
through with it" because she lacked courage. She reported she 
was unable to sleep and started Googling information about the 
amount of medication one needs to take to die. She subsequently 
overdosed on Klonipin, Vistaril and Wellbutrin. At 6 am she 
called her father, asking him to take her to the hospital 
because she realized "I don't want to die." 

ED Course: Patient was in good behavioral control and did not 
require physical or chemical restraints. 
 
Patient seen in team. Upon interview, patient confirmed the 
history as provided in the ED. Ms. ___ reported she had been 
struggling with conflict and drama in her ___ office, noting she 
had recently received an annual review that was excellent, but 
that the other members of her office were disappointed in their 
reviews, resulting in tension. In addition, patient reports her 
colleagues are mostly black, and states that recently another 
Caucasian woman was hired; following this she stated her 
co-workers would make comments that she would no longer hang out 
with them. The tension in the office escalated to the point 
where another co-worker threw a toy at her, resulting in the 
suspension of two of her co-workers and patient stated that she 
did not know if she would be promoted or not, which was 
incredibly stressful for her. 
 
In this setting, patient reported worsening depression and 
anxiety-- she stated she was suffering more from anxiety than 
depression. "I was worried about losing the promotion because it 
reminds me of my childhood, that even though I'm being perfect, 
something bad could happen." Noted that she constantly worries 
about "impending doom" including losing her job and losing her 
apartment, stating she does not want to depend on her family. In 
terms of depression, patient reported has been quite stressed. 
Denied difficulty falling asleep but stated she does have 
difficulty with night time awakenings. Reported energy and 
appetite were "okay" on my examination, denied changes in 
weight. Reported having suicidal ideation in the past, but 
denied intent or plan on my exam. 
 
In this setting, patient reported that on the night of her 
suicide attempt, she had drank several glasses of wine and got 
into an argument with a ___ I've been seeing on and off for a 
while." She stated that "he's supportive when I'm vulnerable, 
but not supportive when I'm not vulnerable." She stated that 
after the argument, "I catastrophized it" and "felt some type of 
rejection that probably wasn't there." She stated that she had 
had thoughts of wanting to jump out her window, but did not. 
Reported she went to bed, took her usual dose of Klonipin and 
then at 1 am she took 25 tablets of Klonipin, which she 
described as a "cry for help." She did admit that she looked up 
overdoses online, and stated she found that "you can't overdose 
on 25 tablets." She then fell asleep and woke up again at 5 am, 
taking the remaining 25 tablets of Klonipin in addition to ___ 
tablets of Wellbutrin and ___ tablets of Vistaril. Reported at 
this point, "I did want to die" but changed her mind ___ hour 
later and called her father to take her to the hospital.  

At this time, patient reports she is glad she is alive and wants 
to be discharged as soon as possible so she can return to work. 
Reported she slept well overnight, denied current suicidal 
ideation. On psychiatric review of systems, patient denied 
history of manic symptoms including decreased need for sleep, 
increased impulsivity, rapid speech, euphoric mood. Denied 
history of psychosis including auditory or visual 
hallucinations, paranoia, delusions. Reported having obsessive 
thoughts in the past, denies compulsions. Denies panic attacks. 
Denies binging/purging (although overeats at times), restricting 
food.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: Patient reports Dx of MDD, GAD, "possible" 
PTSD
-Hospitalizations: Denies
-Partial hospitalizations: Denies
-Psychiatrist: Dr. ___, started seeing ___ 
-Therapist: ___, started seeing 3 months ago, sees 
weekly
-Medication trials: Prozac (several years, describes as not 
helpful), Wellbutrin (started 1 week prior to admission), 
Klonopin, Vistaril (describes as not helpful)
-___ trials: Denies
-Suicide attempts: Denies any prior to most recent overdose
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Endorses emotional abuse/invalidation from ___, 
witnessing domestic violence and being physically abuse by past 
romantic partners; denies current physical abuse
-Access to weapons: Denies

PAST MEDICAL HISTORY: 
**PCP: ___
Denies current medical problems; denies history of head trauma, 
seizures.
-S/p hip fracture ___
 
Social History:
SUBSTANCE USE HISTORY:
-Alcohol: patient drinks about ___ glasses of wine per night. 
Denies history of withdrawal. 
-Illicits: patient reports smoking cannabis about once per month 
and also uses about 5 mg of Adderall about ___ times per week, 
which she gets from a co-worker. She has experimented with 
Percocet on weekends but stopped that about 5 months ago. 
-Tobacco: former smoker 

PERSONAL AND SOCIAL HISTORY:
Born and raised in ___ as the youngest of ___. Reported 
chaotic childhood with a father who suffered from substance use 
issues resulting in psychosis and a psychiatric hospitalization. 
Father worked as a ___. Patient noted that her sister 
was blamed from her parent's divorce and the loss of their 
house, and that her father physical abused her younger sister, 
resulting in her sister having psychiatric hospitalizations and 
suicide attempts. Ms. ___ reports being diagnosed with OCD 
at a young age around the time of her parent's divorce. Patient 
stated that in the setting of this chaos, despite being 
"perfect" in middle school, she was placed "in the back seat" by 
her mother. ___ divorced when she was ___ years old. Mother 
worked as a ___, Ms. ___ described her 
as "not an affectionate person-- she never said I loved you but 
she's starting to say it more." Patient stated that in high 
school she "didn't give a shit" but still did well academically. 
She graduated high school and attended ___ for social 
work, graduating cum ___. She reports, "this still wasn't 
enough to make my mother proud" and so she obtained her ___ 
degree in social work. Following graduation, patient started 
working for ___ and has worked in her current office for the 
past ___ years.  Arrested once at age ___, no other legal history. 
Denies access to guns. Currently lives alone in ___ in her 
apartment, enjoys yoga. 
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Father with  ___ personality d/o, anxiety, depression, 
PTSD, and polysubstance/alcohol use d/o
-Sister with borderline personality d/o and 2 suicide attempts
-Aunt and grandmother with anxiety
-Mother with mood d/o
-Denies anybody in family dying by suicide
 
Physical Exam:
Examination on Admission:

VITALS:
T 98.2, HR 91, BP 113/79, RR 16, SpO2 98% on RA

PHYSICAL EXAM:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation.
-Extremities: Warm and well-perfused, capillary refill <2 
seconds.
-Skin: No rashes or lesions noted.

NEUROLOGICAL EXAM:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: ___ and biceps 2 and symmetrical
-Coordination: No intention tremor noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.

MENTAL STATUS EXAM:
-Appearance: Caucasian woman appearing stated age, well groomed, 
good hygiene, wearing hospital gown, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "Stressed"
-Affect: Mood-congruent, mild-moderately restricted range, 
becomes tearful at one point during interview
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Limited
-Judgment: Poor

COGNITIVE EXAM: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time (___), place 
(___), situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: quarters in $2.25 = "9"
-Abstraction: train/bicycle = "they both have wheels"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Examination on Discharge:

VS: 98.1, 69, 105/66, 20, 97% on RA

A: Appearing stated age, good grooming/hygiene, wearing clean 
casual clothing
B: Sitting up in chair, appropriate eye contact, no PMA/PMR
S: Normal rate, volume, and tone
M: "Good"
A: Mood-congruent, full range
TP: Linear, coherent, goal-oriented, no LOA
TC: Denies SI/HI/AVH
I/J: Fair/Fair
 
Pertinent Results:
CBC w/ Diff:
___: WBC: 4.9
___: RBC: 3.58*
___: HGB: 11.7
___: HCT: 35.6
___: MCV: 99*
___: MCH: 32.7*
___: MCHC: 32.9
___: RDW: 11.8
___: Plt Count: 194
___: Neuts%: 45.9
___: Lymphs: 44.4
___: MONOS: 6.9
___: Eos: 1.6
___: BASOS: 0.8
___: AbsNeuts: 2.26

BMP:
___: Na: 139
___: K: 4.0
___: Cl: 102
___: CO2: 25
___: BUN: 9
___: Creat: 0.7
___: Glucose: 73
___: Ca: 9.1
___: Mg: 2.0
___: PO4: 5.2*

LFTs:
___: ALT: 17
___: AST: 18
___: LDH: 107
___: CPK: 101
___: Total Bili: 0.4

TSH:
___: TSH: 2.0

Vitamin B12:
___: B12: 376

Folate:
___: Folate: 11

STox:
___: ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc: NEG

UTox:
___: Benzodiazepine: POS*
___: Barbiturate: NEG
___: Opiate: NEG
___: Cocaine: NEG
___: Amphetamine: POS*
___: Methadone: NEG

UA:
___: Urine pH (Hem): 6.0
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): NEG
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): 10*
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): MOD*

UCx:
(Final ___: GRAM POSITIVE BACTERIA. 10,000-100,000 CFU/mL. 

Alpha hemolytic colonies consistent with alpha streptococcus or 
Lactobacillus sp. 

Urine hCG: 
___: HCG: Negative

Rapid Plasma Reagin:
___: RPR: Non-Reactive.
 
Brief Hospital Course:
This is a ___ year old single Caucasian woman, previously 
diagnosed with depression, GAD, OCD symptoms since childhood, no 
prior psychiatric hospitalizations or suicide attempts who 
presented to ___ after being brought in by her father s/p 
suicide attempt via multi-drug overdose in the setting of 
psychosocial stressors. 

Upon interview, patient reports a history of depression and 
anxiety with worsening of mood in the setting of numerous 
psychosocial stressors including conflict at work and with her 
current romantic interest. Patient reported worsening anxiety 
with difficulty coping, some neurovegetative symptoms and 
suicidal ideation with suicide attempt as noted above. Currently 
denying suicidal ideation, thoughts of self harm. Mental status 
examination is reassuring, with patient appearing well groomed 
with good eye contact, "okay" mood, affect that is slightly 
restricted but mostly euthymic, and thought process that is 
notably linear, goal and future oriented. 

Diagnostically, patient likely does meet criteria for MDD 
without psychotic features and generalized anxiety disorder. 
However, given her longstanding history of depression and 
anxiety as well as her history of "perfectionism" in the setting 
of a chaotic childhood, I am suspicious for underlying 
personality disorder with recent decompensation, particularly 
given her benign mental status examination. Of note, her alcohol 
use is likely contributing to her current clinical presentation, 
although I do not believe she meets criteria for alcohol use 
disorder. Nothing in her history to suggest a prior manic 
episode; I do not think she has BPAD, nor are there any 
signs/symptoms of psychosis. 

#. Legal/Safety: On admission, Ms. ___ signed a conditional 
voluntary agreement (Section 10 & 11); she then signed a 3 day 
notice on ___.  Ms. ___ was also placed on 15 minute 
checks status with monitored sharps access (green sharps) on 
admission and remained on that level of observation throughout 
while being unit restricted. There were no acute 
safety/behavioral concerns at any point during hospitalization , 
and as such Ms. ___ did not require any 
chemical/physical/mechanical restraints during admission.

#. Generalized Anxiety Disorder, Unspecified Depressive 
Disorder: as noted above
Ms. ___ home Wellbutrin ___ was titrated to 300 mg daily 
with good effect, and her home Prozac 60 mg daily was stopped 
due to intermittent compliance prior to admission/minimal stated 
benefit. She utilized Klonopin PRNs in addition to coping skills 
learned in groups/in therapy with her outpatient therapist.  Ms. 
___ denied SI throughout admission, and by the time of 
discharge she reported improvement in anxiety/depression. 
Discussed the risks and benefits of ongoing hospitalization, 
which she declined, stating she wanted to return back to work. 
We also discussed the risks and benefits of a partial program, 
which she declined due to her work schedule, but stated she was 
interested in an IOP. On day of discharge, a family meeting was 
held with her father to discuss the hospital course and 
discharge planning. 

Ms. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Ms. ___ often 
attended these groups and was noted to contribute positively.  
Ms. ___ was visible on the milieu and appropriately 
interacted with staff and peers.

#. Alcohol Use: as noted above 
Ms. ___ was counseled regarding the negative effects of 
alcohol upon mental/physical health and abstinence from alcohol 
was encouraged.  She was encouraged to go to SMART Recovery 
meetings upon discharged/provided with this information.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 60 mg PO DAILY anxiety, depression 
2. BuPROPion ___ (Once Daily) 150 mg PO DAILY anxiety, depression 

3. ClonazePAM 1 mg PO BID anxiety 
4. ClonazePAM 0.5 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1.  BuPROPion ___ (Once Daily) 300 mg PO DAILY 
RX *bupropion HCl 300 mg 1 tablet(s) by mouth daily Disp #*21 
Tablet Refills:*0 
2.  ClonazePAM 1 mg PO BID:PRN anxiety, insomnia 
RX *clonazepam 1 mg 1 tablet(s) by mouth twice a day Disp #*21 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Generalized anxiety disorder
Unspecified depressive disorder
Unspecified trauma
History of obsessive compulsive disorder
Alcohol use disorder

 
Discharge Condition:
VS: 98.1, 69, 105/66, 20, 97% on RA

A: Appearing stated age, good grooming/hygiene, wearing clean 
casual clothing
B: Sitting up in chair, appropriate eye contact, no PMA/PMR
S: Normal rate, volume, and tone
M: 'Good'
A: Mood-congruent, full range
TP: Linear, coherent, goal-oriented, no LOA
TC: Denies SI/HI/AVH
I/J: Fair/Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed -- 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs -- whether 
prescription drugs or illegal drugs - -as this can further 
worsen your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___